US07786115B2
2-{5-[(Cyclopropylamino)carbonyl]-2-methylphenyl}-1-oxo-1,2-dihydroisoquinolin-7-yl trifluoromethanesulfonate (58 mg), palladium acetate (3 mg), BINAP (16 mg) and cesium carbonate (101 mg) were placed in a reaction tube under an atmosphere of argon. Toluene (0.5 ml) was added followed by N-methylpiperazine (0.041 ml) and the reaction mixture was stirred in a sealed tube at 95° C. for 16 hours. The reaction mixture was diluted with ethyl acetate and washed with water (2×), brine, dried (magnesium sulfate) and concentrated. Purification by RP-HPLC (5-95% MeCN: 1% NH4OH in H2O, 21 ml/min using a Waters Xterra Prep RP18 5 micron, 19×100 mm column) gave N-cyclopropyl-4-methyl-3-[7-(4-methylpiperazin-1-yl)-1-oxoisoquinolin-2(1H)-yl]benzamide (17 mg) as a pale yellow solid; NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.69 (m, 2H), 2.09 (s, 3H), 2.29 (s, 3H), 2.56 (m, 4H), 2.85 (m, 1H), 3.29 (m, 4H), 6.65 (d, 1H), 7.11 (d, 1H), 7.48 (d, 1H), 7.52 (d, 1H), 7.61 (m, 2H), 7.74 (s, 1H), 7.87 (d, 1H), 8.43 (d, 1H); Mass Spectrum: M+H+ 417.

reactant | 2-{5-[(Cyclopropylamino)carbonyl]-2-methylphenyl}-1-oxo-1,2-dihydroisoquinolin-7-yl trifluoromethanesulfonate | 58 mg | FC(S(=O)(=O)OC1=CC=C2C=CN(C(C2=C1)=O)C1=C(C=CC(=C1)C(=O)NC1CC1)C)(F)F | C21H17F3N2O5S
reactant | BINAP | 16 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 101 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylpiperazine | 0.041 ml | CN1CCNCC1 | C5H12N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | N-cyclopropyl-4-methyl-3-[7-(4-methylpiperazin-1-yl)-1-oxoisoquinolin-2(1H)-yl]benzamide | 17 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)N1CCN(CC1)C)=O)=O | C25H28N4O2
